US04440929
4-Chloroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester
4-Oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester (9 g) was suspended in 200 ml of phosphorus oxychloride and the mixture was heated with stirring until it became a clear solution. After cooling to room temperature, the solution was concentrated under vacuum. The residual oil was taken up in chloroform and was put through a short silica gel dry column (chloroform as eluant). The product was obtained from column as an off-white colored solid (4.5 g, 47% yield), m.p. 128°-130° C.

reactant | 4-Oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 9 g | C(C)OC(=O)C=1N=CN2C1C(NC1=CC=CC=C21)=O | C13H11N3O3
reactant | phosphorus oxychloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 4.5 g, 47% yield | C(C)OC(=O)C=1N=CN2C1C(=NC1=CC=CC=C21)Cl | C13H10ClN3O2
